US05180733
Step 2: 1-Cyano-2-(2-ethoxycarbonylethyl)-5-methoxy-3,4-dihydronaphthalene
2-(2-Ethoxycarbonylethyl)-3,4-dihydro-5-methoxy-1(2H)-naphthalenone (1.1 g, 4 mmol), from Step 1, was dissolved in 15 mL of dry THF and cooled to 0° C. Diethyl cyanophosphonate (1.18 mL, 8 mmol), commercially available from Aldrich Chemical Company, was added, followed by 8 mL of a 0.5M solution of lithium cyanide (4 mmol) in DMF. The reaction mixture was stirred at ambient temperature overnight and then poured into water. The aqueous mixture was extracted with three portions of diethyl ether/ethyl acetate. The organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was dissolved in 100 mL of toluene and 1.1 g of p-toluenesulfonic acid was added. The reaction mixture was heated at reflux for 2 h and allowed to cool to ambient temperature. The toluene solution was poured into 5% aqueous sodium bicarbonate and the aqueous mixture was extracted with ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel eluted with 10% ethyl acetate in hexane to give 0.8 g (70% yield) of the title compound; MS DCI-NH3 M/Z: 286 (M+H)+, 303 (M+NH4)+.

reactant | 2-(2-Ethoxycarbonylethyl)-3,4-dihydro-5-methoxy-1(2H)-naphthalenone | 4 mmol, 1.1 g | C(C)OC(=O)CCC1C(C2=CC=CC(=C2CC1)OC)=O | C16H20O4
reactant | Diethyl cyanophosphonate | 8 mmol, 1.18 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | lithium cyanide | 4 mmol | [C-]#N.[Li+]
reactant | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Cyano-2-(2-ethoxycarbonylethyl)-5-methoxy-3,4-dihydronaphthalene | 0.8 g, 70% yield | C(#N)C1=C(CCC2=C(C=CC=C12)OC)CCC(=O)OCC | C17H19NO3
